US08461164B2
To 4 mL of acetic anhydride was added 5-[2-(Pteridin-4-ylamino)-ethyl]-2-(4-trifluoromethylpyridin-2-yloxy)-phenol (330 mg, 0.7 mmol), pyridine (0.5 mL), and 5 mg DMAP. The solution was stirred at ambient temperature for 15 h, then diluted with CH2Cl2 and washed sequentially with H2O and saturated aqueous NaHCO3 solution. The organic fraction was dried with Na2SO4, suction filtered, and concentrated in vacuo. The residue was diluted with 1:1 Et2O/pentane. The product precipitated, was collected by filtration, and the cake washed with cool 1:1 Et2O/pentane. This afforded 184 mg (56% yield) of acetic acid 5-[2-(pteridin-4-ylamino)-ethyl]-2-(4-trifluoromethylpyridin-2-yloxy)-phenyl ester, an off-white solid: ESIMS m/z: 471 ([M]).

reactant | acetic anhydride | 4 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-[2-(Pteridin-4-ylamino)-ethyl]-2-(4-trifluoromethylpyridin-2-yloxy)-phenol | 0.7 mmol, 330 mg | N1=CN=C(C2=NC=CN=C12)NCCC=1C=CC(=C(C1)O)OC1=NC=CC(=C1)C(F)(F)F | C20H15F3N6O2
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | acetic acid 5-[2-(pteridin-4-ylamino)-ethyl]-2-(4-trifluoromethylpyridin-2-yloxy)-phenyl ester | 184 mg, 56% yield | N1=CN=C(C2=NC=CN=C12)NCCC=1C=CC(=C(C1)OC(C)=O)OC1=NC=CC(=C1)C(F)(F)F | C22H17F3N6O3
